US06864255B2
To a mixture of 2-[3-(4-chloro-[1,3,5]triazin-2-ylamino)-phenyl]acetamide (36.6 mg, 0.1388 mmol) in IpOH (1 ml) were added DIEA (27 μl, 0.1527 mmol) and 3-bromoaniline (26.3 mg, 0.1527 mmol). The mix was heated at 100-120° C. for 18 h. The solution was cooled to RT and sonicated. The precipitate was filtered and dried under reduced pressure, giving 2-{3-[4-(3-bromophenylamino)-[1,3,5]triazin-2-ylamino]-phenyl}acetamide.

reactant | 2-[3-(4-chloro-[1,3,5]triazin-2-ylamino)-phenyl]acetamide | 0.1388 mmol, 36.6 mg | ClC1=NC(=NC=N1)NC=1C=C(C=CC1)CC(=O)N | C11H10ClN5O
reactant | DIEA | 0.1527 mmol, 27 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-bromoaniline | 0.1527 mmol, 26.3 mg | BrC=1C=C(N)C=CC1 | C6H6BrN
product | 2-{3-[4-(3-bromophenylamino)-[1,3,5]triazin-2-ylamino]-phenyl}acetamide | BrC=1C=C(C=CC1)NC1=NC(=NC=N1)NC=1C=C(C=CC1)CC(=O)N | C17H15BrN6O
